US04003750
1,3-Diethyl-5[(6,10-dihydro-10,10-dimethylpyrido[1,2-a]indol-6-ylidene)ethylidene]-2-thiobarbituric acid
6,10,10-Trimethylpyrido[1,2-a]indolium perchlorate (0.62 g.) and 5-anilinomethylene-1,3-diethyl-2-thiobarbituric acid (0.6 g.) are dissolved in acetonitrile. Tetramethylguanidine (0.23 g.) is added and the reaction mixture is stirred at room temperature overnight. The precipitated dye is filtered off and recrystallized from acetonitrile. The λmax of the product in a mixture of pyridine and methyl alcohol is 513 nm.

reactant | 6,10,10-Trimethylpyrido[1,2-a]indolium perchlorate | 0.62 g | Cl(=O)(=O)(=O)[O-].CC1=CC=CC2=[N+]1C1=CC=CC=C1C2(C)C
reactant | 5-anilinomethylene-1,3-diethyl-2-thiobarbituric acid | 0.6 g | N(C1=CC=CC=C1)C=C1C(N(C(N(C1=O)CC)=S)CC)=O | C15H17N3O2S
reactant | Tetramethylguanidine | 0.23 g | CN(C(N(C)C)=N)C | C5H13N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-Diethyl-5[(6,10-dihydro-10,10-dimethylpyrido[1,2-a]indol-6-ylidene)ethylidene]-2-thiobarbituric acid | C(C)N1C(=S)N(C(=O)C(C1=O)=CC=C1C=CC=C2N1C1=CC=CC=C1C2(C)C)CC | C24H25N3O2S
